*Spice netlist for Circuit: C:\Users\241pr\OneDrive\Desktop\UBC\ELEC 301\MP2\UNTITLED.CKT
Vce 3 0 10V
Q1 4 5 0 Q2N2222A
Vbe 6 0 10V
R2 4 3 420
R1 6 5 680
.SAVE V(3) V(4) V(5) V(6) @vce[p] vce#branch @q1[p] @q1[ic] @q1[ib] @q1[ie]
.SAVE @vbe[p] vbe#branch @r2[p] @r2[i] @r1[p] @r1[i]
*BKGND=RGB 0 0 0
*BINARY RAW FILE

* Selected Circuit Analyses :
* Invalid SOURCE specified for the following analysis
* .DC Vs1 0 700m 10m
.TRAN 20n 5u 0 20n

* Models/Subcircuits Used:

*2N2222A Si 500mW 40V 800mA 300MHz GenPurp pkg:TO-18 3,2,1
.MODEL Q2N2222A NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )
.END
